US07700780B2
N-Hexyl-4-picolinium bromide (Ib)
A solution of 4.65 g of 4-picoline (50 mmol), 9.90 g of 1-bromohexane (60 mmol) and 30 mL of acetonitrile was refluxed for three hours and then cooled to room temperature. The viscous mixture was then added dropwise into 100 mL of ether with vigorous stirring. The mixture was let to stand for a while and then the upper ether layer was decanted. The residual viscous solution was dissolved in 10 mL of acetonitrile again and dispersed into 100 mL of ether. This procedure was repeated two more times in order to completely remove the unreacted starting materials. The resulting viscous liquid was dried under vacuum to give 11.8 g of off-white wax (92% yield). 1H NMR (DMSO-d6, 400 MHz): 0.89 (t, 3H), 1.26 (m, 4H), 1.85 (m, 4H), 2.64 (s, 3H), 4.81 (t, 2H), 8.0 (m, 2H), 8.9 (m, 2H); IR (CHCl3, cm−1): 1398 (C═C), 1635 (C═N), 2975 (N—C).

reactant | 4-picoline | 50 mmol, 4.65 g | N1=CC=C(C=C1)C | C6H7N
reactant | 1-bromohexane | 60 mmol, 9.90 g | BrCCCCCC | C6H13Br
reactant | acetonitrile | 30 mL | C(C)#N | C2H3N
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N-Hexyl-4-picolinium bromide | 92% yield | [Br-].C(CCCCC)[N+]1=CC=C(C=C1)C | InChI=1S/C12H20N.BrH/c1-3-4-5-6-9-13-10-7-12(2)8-11-13;/h7-8,10-11H,3-6,9H2,1-2H3;1H/q+1;/p-1
